US08476297B2
A 250-mL round-bottomed flask containing a solution of 2-benzyl-8-fluoro-1-(4-(trifluoromethyl)phenyl)-1,2-dihydroisoquinoline (1.0 g, 2.6 mmol) in anhydrous tetrahydrofuran (20 mL) was treated with sodium borohydride (0.3 g, 8.4 mmol) at RT. After 20 min, acetic acid (3.3 mL) was added and the reaction was stirred at RT for 2.5 h. The reaction mixture was concentrated and the resulting residue was taken up in ethyl acetate (150 mL), water (25 mL), 1N sodium hydroxide, and brine (35 mL). The ethyl acetate layer was separated, dried over anhydrous sodium sulfate, and concentrated to yield the crude product. The crude product was purified by silica gel chromatography (20-30% EtOAc in hexanes) to give 2-benzyl-8-fluoro-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline as a colorless oil. MS (ESI, pos. ion) m/z: 386 (M+1).

reactant | 2-benzyl-8-fluoro-1-(4-(trifluoromethyl)phenyl)-1,2-dihydroisoquinoline | 2.6 mmol, 1.0 g | C(C1=CC=CC=C1)N1C(C2=C(C=CC=C2C=C1)F)C1=CC=C(C=C1)C(F)(F)F | C23H17F4N
reactant | sodium borohydride | 8.4 mmol, 0.3 g | [BH4-].[Na+]
reactant | acetic acid | 3.3 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 2-benzyl-8-fluoro-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline | C(C1=CC=CC=C1)N1C(C2=C(C=CC=C2CC1)F)C1=CC=C(C=C1)C(F)(F)F | C23H19F4N
